US05597820
To a solution of 2-amino-5-methoxycarbonylphenol [Tetrahedron, 46(15), 5177-5186 (1990)] (9.8 g) in a mixed solvent of ethyl acetate (200 ml) and water (200 ml) were added sodium hydrogen carbonate (7.3 g) and 2-bromoisobutyryl bromide (13.7 g) and the mixture was stirred at room temperature for 10 minutes. The organic layer was separated and the solvent was distilled off under reduced pressure. The resulting residue was dissolved in dimethylformamide (500 ml), to the solution was added potassium carbonate (8.9 g) and the mixture was stirred at room temperature for a day. The reaction solution was poured into water to give precipitates, which were taken by filtration and dried to give 2,2-dimethyl-7-methoxycarbonyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (10.8 g).

reactant | 2-amino-5-methoxycarbonylphenol | 9.8 g | NC1=C(C=C(C=C1)C(=O)OC)O | C8H9NO3
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 7.3 g | C(O)([O-])=O.[Na+]
reactant | 2-bromoisobutyryl bromide | 13.7 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | water | 200 ml | O | H2O
product | 2,2-dimethyl-7-methoxycarbonyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 10.8 g | CC1(OC2=C(NC1=O)C=CC(=C2)C(=O)OC)C | C12H13NO4
